US07645789B2
A suspension of methyl 2-methyl-2-(5-nitro-1H-indol-2-yl)propanoate (60 mg, 0.23 mmol) and Raney Nickel (10 mg) in MeOH (5 mL) was hydrogenated under hydrogen (1 atm) at room temperature overnight. The catalyst was filtered off through a celite pad and the filtrate was evaporated under vacuum to give a residue, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=5/1) to give methyl 2-(5-amino-1H-indol-2-yl)-2-methylpropanoate (20 mg, 38%). 1H NMR (400 MHz, CDCl3) δ 8.37 (br s, 1H), 7.13 (d, J=8.4 Hz, 1H), 6.87 (d, J=2.0 Hz, 1H), 6.63 (dd, J=2.0, 8.4 Hz, 1H), 6.20 (d, J=1.2 Hz, 1H), 3.72 (d, J=7.6 Hz, 3H), 3.43 (br s, 1H), 1.65 (s, 6H); MS (ESI) m/e (M+H+) 233.2.

reactant | methyl 2-methyl-2-(5-nitro-1H-indol-2-yl)propanoate | 0.23 mmol, 60 mg | CC(C(=O)OC)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C13H14N2O4
catalyst | Raney Nickel | 10 mg | [Ni] | Ni
solvent | MeOH | 5 mL | CO | CH4O
product | methyl 2-(5-amino-1H-indol-2-yl)-2-methylpropanoate | 20 mg, 38% | NC=1C=C2C=C(NC2=CC1)C(C(=O)OC)(C)C | C13H16N2O2
